US07645789B2
To a stirred solution (R)—N-(1-(3-azido-2-hydroxypropyl)-2-tert-butyl-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (2.4 g, 4.0 mmol) in MeOH (25 mL) was added 5% Pd/C (2.4 g) under a Hydrogen gas filled balloon. After 18 h, the reaction mixture was filtered through celite and rinsed with 300 mL ethyl acetate. The organic layer was washed with 1 N HCl and evaporated to give (S)—N-(1-(3-amino-2-hydroxypropyl)-2-tert-butyl-1H-indol-5-yl)-1-(2,2-difluoro-benzo[d][1,3]-dioxol-5-yl)cyclopropane-carboxamide (1.37 g). MS (M+1)=486.5.

reactant | (R)—N-(1-(3-azido-2-hydroxypropyl)-2-tert-butyl-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 4.0 mmol, 2.4 g | N(=[N+]=[N-])C[C@@H](CN1C(=CC2=CC(=CC=C12)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C(C)(C)C)O | C26H27F2N5O4
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | 2.4 g | [Pd] | Pd
product | (S)—N-(1-(3-amino-2-hydroxypropyl)-2-tert-butyl-1H-indol-5-yl)-1-(2,2-difluoro-benzo[d][1,3]-dioxol-5-yl)cyclopropane-carboxamide | 1.37 g | NC[C@@H](CN1C(=CC2=CC(=CC=C12)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C(C)(C)C)O | C26H29F2N3O4
